US06043269
(+,-) cis Methanesulfonic acid 4-(7-methoxy-3-phenyl-chroman-4-yl)-phenyl ester
(+,-) cis 7-methoxy-4-(4-hydroxy-phenyl)-3-phenyl-chroman (7.5 g, 22.6 mmol) was dissolved in pyridine (35 ml), and methanesulfonylchloride (3.85 ml, 49.6 mmol) was added dropwise in 5 min. The reaction mixture was refluxed for 30 min, cooled to room temperature, and ethyl acetate (100 ml) was added. The reaction mixture was acidified with 6N Hydrochloric acid (100 ml), and the separated aqueous phase extracted with ethyl acetate (25 ml). The combined organic extracts were washed with 1N hydrochloric acid (50 ml), water (2×50 ml), dried with magnesium sulphate and evaporated to give a slightly yellow solid, which was recrystallised from ethanol, and vacuum dried.

reactant | (+,-) cis 7-methoxy-4-(4-hydroxy-phenyl)-3-phenyl-chroman | 22.6 mmol, 7.5 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)O | C22H20O3
reactant | methanesulfonylchloride | 49.6 mmol, 3.85 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | Hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | pyridine | 35 ml | N1=CC=CC=C1 | C5H5N
product | (+,-) cis Methanesulfonic acid 4-(7-methoxy-3-phenyl-chroman-4-yl)-phenyl ester | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OS(=O)(=O)C | C23H22O5S
